US07452911B2
3.35b N-{4-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-phenyl}-2-pyrrolidin-1-yl-propionamide
0.18 mL (1.31 mmol) triethylamine and 269 mg (0.84 mmol) TBTU are added successively to a solution of 100 mg (0.70 mmol) 2-pyrrolidin-1-yl-propionic acid in 10 mL THF. The solution is stirred for 1 h at RT and then 200 mg (0.66 mmol) 4-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-phenylamine are added. The reaction solution is stirred overnight at RT. The reaction is incomplete. Therefore 100 mg (0.70 mmol) 2-pyrrolidin-1-yl-propionic acid in 10 mL THF is added to the reaction mixture (activated for 1 h by stirring with 0.18 mL (1.31 mmol) triethylamine and 269 mg (0.84 mmol) TBTU). The reaction solution is stirred for a further 16 h and diluted with NaHCO3 solution. The aqueous phase is extracted with EtOAc and the organic phase is dried over MgSO4. The solvent is eliminated i.vac. and further purification is carried out by column chromatography on silica gel (EtOAc/MeOH/NH3 8:2:0.2).

reactant | triethylamine | 1.31 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | TBTU | 0.84 mmol, 269 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-pyrrolidin-1-yl-propionic acid | 0.70 mmol, 100 mg | N1(CCCC1)C(C(=O)O)C | C7H13NO2
reactant | 4-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-phenylamine | 0.66 mmol, 200 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)N | C19H13ClN2
reactant | 2-pyrrolidin-1-yl-propionic acid | 0.70 mmol, 100 mg | N1(CCCC1)C(C(=O)O)C | C7H13NO2
reactant | triethylamine | 1.31 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | TBTU | 0.84 mmol, 269 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-{4-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-phenyl}-2-pyrrolidin-1-yl-propionamide | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)NC(C(C)N1CCCC1)=O | C26H24ClN3O
